US07348318B2
Synthesis of (3S)-3-amino-1-bis(n-propylamino)phosphinyl-2-piperidone
Palladium black (50 mg) was added to a solution of (3S)-3-benzyloxycarbonylamino-1-bis(n-propylamino)phosphinyl-2-piperidone (500.0 mg, 1.2182 mmol) in methanol (5 mL), and the resulting mixture was stirred at room temperature for 3 hours under a hydrogen atmosphere.

reactant | (3S)-3-benzyloxycarbonylamino-1-bis(n-propylamino)phosphinyl-2-piperidone | 1.2182 mmol, 500.0 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(CCC1)P(=O)(NCCC)NCCC)=O | C19H31N4O4P
solvent | methanol | 5 mL | CO | CH4O
catalyst | Palladium black | 50 mg | [Pd] | Pd
product | (3S)-3-amino-1-bis(n-propylamino)phosphinyl-2-piperidone | N[C@@H]1C(N(CCC1)P(=O)(NCCC)NCCC)=O | C11H25N4O2P
